US04301278
A solution, prepared at 0° C., of 555 mg (1.11 mmols) of a crude mixture consisting of 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid p-nitrobenzyl ester and 7β-phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid p-nitrobenzyl ester in the ratio of about 3:1, in 33 ml of tetrahydrofurane, is mixed, whilst stirring, with 16 ml of an 0.1 N potassium hydroxide solution which has been precooled to 0° C. The mixture is stirred for a further 5 minutes at 0° C., 100 ml of ice water and 100 ml of precooled methylene chloride are then added and the whole is stirred up briefly. Addition of 1 ml of saturated aqueous sodium chloride solution causes the two phases to separate. The organic phase is separated off, and the aqueous phase is again washed with 20 ml of methylene chloride, then covered with 50 ml of methylene chloride and acidified with 20 ml of 2 N hydrochloric acid. After shaking up, the organic phase is separated off and the hydrochloric acid solution is extracted twice more with 10 ml of methylene chloride at a time. The combined methylene chloride extracts are dried over sodium sulphate and evaporated in vacuo. The residue is recrystallised from methylene chloride/diethyl ether/pentane and gives 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid of melting point 142°-145° C.

reactant | 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)[C@H]2C(=CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)OC)C=C1 | C23H21N3O8S
reactant | 7β-phenoxyacetamido-3-methoxy-ceph-3-em-4-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)OC)C=C1 | C23H21N3O8S
reactant | potassium hydroxide | 0.1 N | [OH-].[K+]
reactant | sodium chloride | 1 ml | [Cl-].[Na+]
solvent | tetrahydrofurane | 33 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 7β-phenoxyacetamido-3-methoxy-ceph-2-em-4α-carboxylic acid | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N([C@H](C(=CS2)OC)C(=O)O)C1=O | C16H16N2O6S
